US05262420
Preparation of 1-(2-chlorophenyl)-4-(3-ethyl-4-pyridyl)-butane
1.83 g (15.1 mmol) of 3-ethyl-4-methylpyridine and 3.53 g (15.1 mmol) of 1-bromo-3-(2-chlorophenyl)-propane were reacted in the same manner as in Example 26. The reaction product was purified to obtain 1.62 g of the desired compound (yield: 39.1%).

reactant | 3-ethyl-4-methylpyridine | 15.1 mmol, 1.83 g | C(C)C=1C=NC=CC1C | C8H11N
reactant | 1-bromo-3-(2-chlorophenyl)-propane | 15.1 mmol, 3.53 g | BrCCCC1=C(C=CC=C1)Cl | C9H10BrCl
product | 1-(2-chlorophenyl)-4-(3-ethyl-4-pyridyl)-butane | 1.62 g, yield: 39.1% | ClC1=C(C=CC=C1)CCCCC1=C(C=NC=C1)CC | C17H20ClN
